US09371327B2
Step 2: 1-isobutyl-6-(4-methoxybenzyl)-3,7-dimethyl-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione
A suspension of 1-isobutyl-3,7-dimethyl-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione (78 mg, 0.33 mmol), 1-(chloromethyl)-4-methoxybenzene (88 μL, 0.63 mmol) and cesium carbonate (344 mg, 1.06 mmol) in anhydrous DMF is stirred at room temperature overnight. The mixture is diluted with 30 mL of water, and then extracted with CH2Cl2 three times. The combined organic phase is washed with brine, and then dried with anhydrous Na2SO4. After filtration, the filtrate is concentrated under vacuum. The residue is purified by basic alumina column chromatography to give 110 mg of product (yield: 93%). MS (ESI) m/z 356.2 [M+H]+.

reactant | 1-isobutyl-3,7-dimethyl-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione | 0.33 mmol, 78 mg | C(C(C)C)N1C(N(C(C=2C1=C(NC2)C)=O)C)=O | C12H17N3O2
reactant | 1-(chloromethyl)-4-methoxybenzene | 0.63 mmol, 88 μL | ClCC1=CC=C(C=C1)OC | C8H9ClO
reactant | cesium carbonate | 1.06 mmol, 344 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | CN(C)C=O | C3H7NO
solvent | water | 30 mL | O | H2O
product | 1-isobutyl-6-(4-methoxybenzyl)-3,7-dimethyl-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione | 110 mg, yield: 93% | C(C(C)C)N1C(N(C(C=2C1=C(N(C2)CC2=CC=C(C=C2)OC)C)=O)C)=O | C20H25N3O3
